US05385880
Synthesis of methyl 2-(4,6-dimethoxypyrimidin-2-yloxy)-6-methylnicotinate (Compound No. 11)
5.0 g (0.03 mol) of methyl 2-hydroxy-6-methylnicotinate, 5.0 g (0.03 mol) of potassium carbonate, 5.7 g (0.03 mol) of 2-chloro-4,6-dimethoxypyrimidine and 50 ml of N,N-dimethylformamide were weighed, and were reacted at 100° C. for 4 hours. The reaction mixture was then poured into water, and was extracted with 100 ml of ethyl acetate. The organic layer was then washed with water and a saturated sodium chloride aqueous solution. After drying with anhydrous sodium sulfate, the solvent was distilled off, and the residue was purified by silica gel column chromatography to obtain 0.73 g of the aimed product.

reactant | methyl 2-hydroxy-6-methylnicotinate | 0.03 mol, 5.0 g | OC1=C(C(=O)OC)C=CC(=N1)C | C8H9NO3
reactant | potassium carbonate | 0.03 mol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4,6-dimethoxypyrimidine | 0.03 mol, 5.7 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-(4,6-dimethoxypyrimidin-2-yloxy)-6-methylnicotinate | 0.73 g, Yield: 8.0% | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OC)C=CC(=N1)C | C14H15N3O5
